US07977325B2
Production of 4-Isopropyl-6-(3,4-methylenedioxyphenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile
100 g of ammonium acetate is added to a solution of 12 g of isobutyraldehyde, 26 g of 3,4-methylenedioxy-acetophenone and 18 g of cyanoacetic acid ethyl ester in 300 ml of ethanol, and it is then refluxed for six hours while being stirred (80-90° C.). After cooling, the precipitate is suctioned off, washed first with cold ethanol and then with water and dried in air. Yield 17 g, melting point 266-268° C.

reactant | ammonium acetate | 100 g | C(C)(=O)[O-].[NH4+]
reactant | isobutyraldehyde | 12 g | C(C(C)C)=O | C4H8O
reactant | 3,4-methylenedioxy-acetophenone | 26 g | CC(=O)C1=CC2=C(C=C1)OCO2 | C9H8O3
reactant | cyanoacetic acid ethyl ester | 18 g | C(C)OC(CC#N)=O | C5H7NO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-Isopropyl-6-(3,4-methylenedioxyphenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile | C(C)(C)C1=C(C(NC(=C1)C1=CC2=C(C=C1)OCO2)=O)C#N | C16H14N2O3
